US05076831
a) N-(4-(4-Fluorophenyl)-butoxy)-phthalimide
71.5 g (0.23 mol) of N-(4-(4-fluorophenyl)-3-butenyloxy)-phthalimide (prepared according to German Laid-Open Application DOS 3,838,310) were dissolved in 300 ml of tetrahydrofuran, 2 g of palladium on active carbon (10% strength) were added and hydrogenation was carried out under slightly superatmospheric pressure until 1.2 times the theoretical amount of hydrogen had been consumed.

reactant | N-(4-(4-fluorophenyl)-3-butenyloxy)-phthalimide | 0.23 mol, 71.5 g | FC1=CC=C(C=C1)C=CCCON1C(C=2C(C1=O)=CC=CC2)=O | C18H14FNO3
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | palladium | 2 g | [Pd] | Pd
product | N-(4-(4-Fluorophenyl)-butoxy)-phthalimide | FC1=CC=C(C=C1)CCCCON1C(C=2C(C1=O)=CC=CC2)=O | C18H16FNO3
